### PR TITLE
feat: bounded linear functional is monotone iff `‖f‖ = f 1`

### PR DESCRIPTION
**Pull request by themathqueen**

### CODE REVIEW

File: LeanOA/CStarAlgebra/PositiveLinearFunctional.lean [hunk 1]
```diff
@@ -140,8 +143,97 @@ theorem tendsto_isIncreasingApproximateUnit_nhds_opNorm (f : A →P[ℂ] ℂ) {l
...
+    (tendsto_pure_nhds _ _)]
 
 end PositiveContinuousLinearMap
+
+namespace ContinuousLinearMap
+
+section unital
+variable {A : Type*} [CStarAlgebra A] {f : A →L[ℂ] ℂ}
+
+lemma im_apply_eq_zero_of_opNorm_eq_map_one (hf : ‖f‖ = f 1) {a : A} (ha : IsSelfAdjoint a) :
```
Comment (themathqueen) [inline LeanOA/CStarAlgebra/PositiveLinearFunctional.lean]: probably remove this after we're done with the nonunital version

File: LeanOA/CStarAlgebra/PositiveLinearFunctional.lean [hunk 2]
```diff
@@ -140,8 +143,97 @@ theorem tendsto_isIncreasingApproximateUnit_nhds_opNorm (f : A →P[ℂ] ℂ) {l
...
+      calc _ = ‖a * a + (t * t : ℂ) • 1‖ := by
+            simp [ha.star_eq, mul_add, add_mul, ← smul_assoc, mul_assoc, mul_left_comm]
+        _ ≤ _ := by grw [norm_add_le]; simp
+  contrapose! this
+  by_cases hc : ‖f‖ = 0
+  · exact ⟨0, by simp [hc, sq]; nlinarith [mul_self_pos.mpr this]⟩
+  · refine ⟨(‖f‖ ^ 2 * ‖a‖ ^ 2 - (f a).re ^ 2 - (f a).im ^ 2 + 1) / (2 * (f a).im * ‖f‖), ?_⟩
+    field_simp; grind
+
+theorem monotone_of_opNorm_eq_map_one [PartialOrder A] [StarOrderedRing A] (hf : ‖f‖ = f 1) :
```
Comment (themathqueen) [inline LeanOA/CStarAlgebra/PositiveLinearFunctional.lean]: golf this using the nonunital version

File: LeanOA/CStarAlgebra/PositiveLinearFunctional.lean [hunk 3]
```diff
@@ -137,11 +142,81 @@ theorem tendsto_isIncreasingApproximateUnit_nhds_opNorm (f : A →P[ℂ] ℂ) {l
...
+
+open Topology Filter
+
+private lemma im_apply_eq_zero_of_tendsto_isIncreasingApproximateUnit_opNorm {l : Filter A}
+    (hl : l.IsIncreasingApproximateUnit) (hf : l.Tendsto (f ·) (𝓝 ‖f‖)) {a : A}
+    (ha : IsSelfAdjoint a) : (f a).im = 0 := by
+  by_cases ‖f‖ = 0
+  · simp_all
+  suffices ∀ (t : ℝ), ‖f a + Complex.I * t * ‖f‖‖ ^ 2 ≤ ‖f‖ ^ 2 * (‖a‖ ^ 2 + t ^ 2) by
+    contrapose! this; conv_rhs => simp [Complex.normSq, ← Complex.normSq_eq_norm_sq]
```
Comment (themathqueen) [inline LeanOA/CStarAlgebra/PositiveLinearFunctional.lean]: I think this is a bug in the flexible linter :eyes:
shouldn't this not be allowed?

File: LeanOA/CStarAlgebra/PositiveLinearFunctional.lean [hunk 4]
```diff
@@ -137,11 +142,85 @@ theorem tendsto_isIncreasingApproximateUnit_nhds_opNorm (f : A →P[ℂ] ℂ) {l
...
+-- name the hypothesis `[b.NeBot]` in `le_of_tendsto_of_tendsto` so that we can do `(hb := proof)`:
+lemma le_of_tendsto_of_tendsto'' {α β : Type*} [TopologicalSpace α] [Preorder α]
+    [t : OrderClosedTopology α] {f g : β → α} {b : Filter β} {a₁ a₂ : α} [hb : b.NeBot]
+    (hf : Tendsto f b (𝓝 a₁)) (hg : Tendsto g b (𝓝 a₂)) (h : f ≤ᶠ[b] g) : a₁ ≤ a₂ :=
+  le_of_tendsto_of_tendsto hf hg h
+
+-- same thing with `le_of_tendsto`
+lemma le_of_tendsto'' {α β : Type*} [TopologicalSpace α] [Preorder α] [ClosedIicTopology α]
+    {f : β → α} {a b : α} {x : Filter β} [hx : x.NeBot] (lim : Tendsto f x (𝓝 a))
+    (h : ∀ᶠ (c : β) in x, f c ≤ b) : a ≤ b := le_of_tendsto lim h
```
Comment (themathqueen) [inline LeanOA/CStarAlgebra/PositiveLinearFunctional.lean]: Not necessary, but makes things easier than doing `have := hl.neBot; exact ...` or `convert ...; exact hl.neBot`.

File: LeanOA/Ultraweak/Masa.lean [hunk 5]
```diff
@@ -126,8 +126,9 @@ lemma IsMasa.extremallyDisconnected_characterSpace (S : StarSubalgebra ℂ M) [h
     refine IsMasa.mem_of_commute _ (x := u) ?_
     suffices ∀ v ∈ span ℂ (S.toSubmodule.subtype '' (unitary S : Set S)), Commute u v by
       simp only [← map_span] at this
-      simpa [CStarAlgebra.span_unitary S]
-    suffices ∀ v ∈ unitary S, Commute u v from Commute.span_right (by simpa)
+      simpa [CStarAlgebra.span_unitary S, StarSubalgebra.subtype]
+    suffices ∀ v ∈ unitary S, Commute u v from Commute.span_right
+      (by simpa [StarSubalgebra.subtype])
```
Comment (themathqueen) [inline LeanOA/Ultraweak/Masa.lean]: weird that this is needed?
